US08610345B2
A mixed solution of 2.0 g of 2-(4-chlorophenyl)nitrobenzene, 1.7 g of diphenylamine, 0.99 g of t-butoxysodium, 0.19 g of (tris-t-butylphosphine)tetrafluoroborate, 0.43 g of bis(dibenzylideneacetone)palladium(0) and 30 ml of m-xylene was heated and stirred under a nitrogen gas stream at 140° C. for 5 hours. The solution was cooled to room temperature and filtered through Celite. The filtrate was evaporated, and then the concentrate was purified by silica gel column chromatography and vacuum-dried to obtain 1.5 g of 2-(4-diphenylaminophenyl)nitrobenzene.

reactant | 2-(4-chlorophenyl)nitrobenzene | 2.0 g | ClC1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C12H8ClNO2
reactant | diphenylamine | 1.7 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | t-butoxysodium | 0.99 g | C(C)(C)(C)O[Na]
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.43 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | m-xylene | 30 ml | C1(=CC(=CC=C1)C)C | C8H10
product | 2-(4-diphenylaminophenyl)nitrobenzene | 1.5 g | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C24H18N2O2
